US06380228B1
Preparation of ethyl 2-[2-(4-cyanophenyl)-2-oxo-ethylthio]-3H-imidazole-4-carboxylate
To a solution 4-ethoxycarbonylimidazole-2-thiol (8.22 g, 47.8 mmol) and potassium carbonate (19.8 g, 143 mmol) in dry acetonitrile (100 mL) at room temperature was added 4-cyanophenacyl bromide (10.7 g, 47.8 mmol). The reaction mixture was stirred for 20 hours, during which time a white precipitate formed. To the solution was added 100 mL ice water. The resulting solid was filtered and washed with water (2×25 mL) to provide the title product as an off-white solid which was sufficiently pure for use in the next step.

reactant | 4-ethoxycarbonylimidazole-2-thiol | 47.8 mmol, 8.22 g | C(C)OC(=O)C=1N=C(NC1)S | C6H8N2O2S
reactant | potassium carbonate | 143 mmol, 19.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyanophenacyl bromide | 47.8 mmol, 10.7 g | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | ethyl 2-[2-(4-cyanophenyl)-2-oxo-ethylthio]-3H-imidazole-4-carboxylate | C(#N)C1=CC=C(C=C1)C(CSC1=NC=C(N1)C(=O)OCC)=O | C15H13N3O3S
